US04198527
Using Example 15 procedures, ethyl propiolate and 4-fluorobenzenethiol are reacted, yielding ethyl 3-(4-fluorophenylthio)-2-propenoate. Three equiv. of this is then combined with 1 equiv. of phenyl(trifluoromethyl)mercury and 3 equiv. of dry powdered sodium iodide. This mixture is refluxed in benzene for 15-20 hr, then filtered and solvent is removed to give ethyl 3-(4-fluorophenylthio)-2,2-difluorocyclopropanecarboxylate.

reactant | ethyl propiolate | C(C#C)(=O)OCC | C5H6O2
reactant | 4-fluorobenzenethiol | FC1=CC=C(C=C1)S | C6H5FS
product | ethyl 3-(4-fluorophenylthio)-2-propenoate | FC1=CC=C(C=C1)SC=CC(=O)OCC | C11H11FO2S
